US04544562
20.3 g (100 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone were stirred with 18.0 g (120 millimoles) of 2-acetoxypropionyl chloride and 400 ml of absolute acetone for 10 hours at room temperature. The product was filtered off under suction at 10° C., washed with cold acetone and dried at 70° C. under reduced pressure. 28.1 g (88.6%) of 6-[p-(2-acetoxypropionylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained. Mp.: 198°-200° C. (dimethylformamide/water).

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 100 millimoles, 20.3 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-acetoxypropionyl chloride | 120 millimoles, 18.0 g | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-[p-(2-acetoxypropionylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 28.1 g, 88.6% | C(C)(=O)OC(C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C16H19N3O4
